US04409220
2-Amino-7-propyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine
This compound was prepared analogous to Example 1 from 2,3,6,7-tetrahydro-1-propyl-4,5-bis(trimethylsilyloxy)azepine and 2-amino-acetamidine dihydrobromide.

reactant | 2,3,6,7-tetrahydro-1-propyl-4,5-bis(trimethylsilyloxy)azepine | C(CC)N1CCC(=C(CC1)O[Si](C)(C)C)O[Si](C)(C)C | C15H33NO2Si2
reactant | 2-amino-acetamidine dihydrobromide | Br.Br.NCC(=N)N
product | 2-Amino-7-propyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | NC=1C=NC2=C(CCN(CC2)CCC)N1 | C11H18N4
